US05585448
38.2 g (265 mmol) of 4,7-dimethylindene were dissolved in 350 ml of tetrahydrofuran and the temperature of the solution was cooled to 0° C. Then, 165 ml of n-butyllithium (1.6M in hexane, 264 mmol) were added, dropwise for 2.5 hours. After having again heated up to room temperature and stirred the whole for 4 hours, a purple-red solution of 4,7-dimethylindenyl-lithium was obtained. This solution was cooled to -70° C. and treated, dropwise for 35 minutes, with 25.3 g of 1,2-dibromoethane (135 mmol) in 15 ml of tetrahydrofuran. After having heated up to room temperature, a slight yellow solution was obtained to which water was added. The organic phase was collected ed dried on Na2SO4. The solvent was then evaporated under vacuum and 20 g of product were obtained (yield 48%).

reactant | 4,7-dimethylindene | 265 mmol, 38.2 g | CC1=C2C=CCC2=C(C=C1)C | C11H12
reactant | n-butyllithium | 264 mmol, 1.6M, 165 ml | C(CCC)[Li]
solvent | tetrahydrofuran | 350 ml | O1CCCC1 | C4H8O
product | 4,7-dimethylindenyl-lithium | CC1=C2C=CC(C2=C(C=C1)C)[Li] | InChI=1S/C11H11.Li/c1-8-6-7-9(2)11-5-3-4-10(8)11;/h3-7H,1-2H3;
